US07018988B2
(2S,4EZ)-1-benzoyl-N-[2-(diethylamino)ethyl]-4-(methoxyimino)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, benzoyl chloride, and N1,N1-diethyl-1,2-ethanediamine the title compound was obtained in 80% purity by LC/MS. MS(ESI+): m/z=361.2.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | N1,N1-diethyl-1,2-ethanediamine | C(C)N(CCN)CC | C6H16N2
product | (2S,4EZ)-1-benzoyl-N-[2-(diethylamino)ethyl]-4-(methoxyimino)-2-pyrrolidinecarboxamide | C(C1=CC=CC=C1)(=O)N1[C@@H](CC(C1)=NOC)C(=O)NCCN(CC)CC | C19H28N4O3
